US06376491B1
To a cooled (0° C.) suspension of LiAlH4 (223 mg) in THF (30 ml) was dropwise added a solution of 3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-3-ylmethoxy)-benzofuran-2-carboxylic acid ethyl ester (600 mg), the compound in Example 111, in THF (20 ml) and the resulting suspension was stirred at 0° C. for one hour. To the suspension was dropwise added a solution of KF (1 g) in H2O (1.2 ml) at 0° C. over 15 minutes. The suspension was stirred at room temperature for 30 minutes, diluted with ethyl acetate, dried over anhydrous sodium sulfate and evaporated to give [3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-3-ylmethoxy)-benzofuran-2-yl]-methanol (532 mg) as a colorless oil. FAB-MS: m/z 367 (MH+); 1H-NMR (CDCl3): δ 1.13-2.25 (7H, m), 2.17 (3H, s), 2.81 (1H, br d, J=11 Hz), 2.93 (1H, br d, J=11 Hz), 3.42 (1H, d, J=13 Hz), 3.56 (1H, d, J=13 Hz), 3.84 (1H, dd, J1=9 Hz, J2=8 Hz), 3.96 (1H, dd, J1=9 Hz, J2=5 Hz), 4.68 (2H, s), 6.54(1H, d, J=8 Hz), 7.00 (1H, d, J=8 Hz, 7.13 (1H, t, J=8 Hz), 7.19 (1H, dd, J1=8 Hz, J2=5 Hz), 7.66 (1H, dt, J1=8 Hz, J2=2 Hz), 8.47 (2H, br s).

reactant | LiAlH4 | 223 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-3-ylmethoxy)-benzofuran-2-carboxylic acid ethyl ester | 600 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCC2CN(CCC2)CC=2C=NC=CC2 | C24H28N2O4
reactant | KF | 1 g | [F-].[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | H2O | 1.2 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-3-ylmethoxy)-benzofuran-2-yl]-methanol | 532 mg | CC1=C(OC2=C1C(=CC=C2)OCC2CN(CCC2)CC=2C=NC=CC2)CO | C22H26N2O3
